US05750545
(1) 1-Acetyl-4-chloronaphthalene
To aluminum chloride (54.5 g) and dichloromethane (250 ml) was dropwise added 1-chloronaphthalene (47 ml) under ice-cooling over 10 minutes. The obtained reaction mixture was stirred for 20 minutes and acetyl chloride (25 ml) was dropwise added over 40 minutes. The reaction mixture was stirred at room temperature for 4 hours and with refluxing for 20 minutes. The reaction mixture was cooled to room temperature, poured into 1N hydrochloric acid (300 ml), extracted with dichloromethane, washed with saturated brine and dried over magnesium sulfate. The solvent was distilled away and the residue was subjected to silica gel column chromatography (hexane-ethyl acetate) to give 37.3 g of a red-brown liquid (yield 55%).

reactant | aluminum chloride | 54.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-chloronaphthalene | 47 ml | ClC1=CC=CC2=CC=CC=C12 | C10H7Cl
reactant | acetyl chloride | 25 ml | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 1N, 300 ml | Cl | ClH
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 1-Acetyl-4-chloronaphthalene | 37.3 g, yield 55% | C(C)(=O)C1=CC=C(C2=CC=CC=C12)Cl | C12H9ClO
